US07939533B2
To a solution of 1.8 g (5.6 mmol) (3R,5R)-1-benzyl-5-(tert-butyl-dimethyl-silanyloxy)-piperidin-3-ol in 50 ml THF were consecutively added 0.75 g (6.2 mmol) benzoic acid, 1.1 g (6.2 mmol) diethyl azodicarboxylate and 1.6 g (6.2 mmol) triphenylphosphine at 0° C. After 6 h the reaction mixture was diluted with tert-butyl methyl ether washed with a 2N aqueous solution of sodium carbonate. The aqueous layer was extracted with 3 portions of tert-butyl methyl ether. The combined organic extracts were washed with a 2N aqueous solution of sodium carbonate and brine and dried over sodium sulfate. Flash chromatography gave 0.80 g (3S,5R)-benzoic acid 1-benzyl-5-(tert-butyl-dimethyl-silanyloxy)-piperidin-3-yl ester as a light brown oil. The ester was dissolved in a mixture of 50 ml dioxane and 18 ml 1N aqueous sodium hydroxide solution. The reaction mixture was heated at 70° C. for 5 h. After cooling to room temperature the mixture was extracted with tert-butyl methyl ether. The organic extract was washed with a 2N aqueous solution of sodium carbonate. The combined aqueous layers were extracted with two portions of tert-butyl methyl ether. The combined organic extracts were washed with brine and dried over sodium sulfate. Flash chromatography gave 0.10 g (17%) of the title compound as a light brown oil.

reactant | (3R,5R)-1-benzyl-5-(tert-butyl-dimethyl-silanyloxy)-piperidin-3-ol | 5.6 mmol, 1.8 g | C(C1=CC=CC=C1)N1C[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)O | C18H31NO2Si
reactant | benzoic acid | 6.2 mmol, 0.75 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 6.2 mmol, 1.1 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 6.2 mmol, 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | (3S,5R)-benzoic acid 1-benzyl-5-(tert-butyl-dimethyl-silanyloxy)-piperidin-3-yl ester | 0.80 g | C(C1=CC=CC=C1)N1C[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)OC(C1=CC=CC=C1)=O | C25H35NO3Si
